US05387603
To a solution of (R)-(-)-1-acetyl-5-[2-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethylamino]propyl]indoline-7-carbonitrile (2.00 g) in isopropanol (4.2 ml) was added concentrated hydrochloric acid (4.2 ml) slowly with stirring under ice cooling, and the mixture was stirred for 40 minutes. The reaction mixture was neutralized by a saturated aqueous sodium bicarbonate solution, and extracted with methylene chloride. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 1.70 g of (R)-(-)-1-acetyl-5-[2-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethylamino]propyl]indoline-7-carboxamide melting at 144°-146° C.

reactant | (R)-(-)-1-acetyl-5-[2-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethylamino]propyl]indoline-7-carbonitrile | 2.00 g | C(C)(=O)N1CCC2=CC(=CC(=C12)C#N)C[C@@H](C)NCCOC1=C(C=CC=C1)OCC(F)(F)F | C24H26F3N3O3
reactant | hydrochloric acid | 4.2 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | isopropanol | 4.2 ml | C(C)(C)O | C3H8O
product | (R)-(-)-1-acetyl-5-[2-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethylamino]propyl]indoline-7-carboxamide | 1.70 g | C(C)(=O)N1CCC2=CC(=CC(=C12)C(=O)N)C[C@@H](C)NCCOC1=C(C=CC=C1)OCC(F)(F)F | C24H28F3N3O4
